US09382216B2
Step-1: 4-Benzyl-5-(hydroxymethyl)morpholin-3-one
To a stirred solution of 4-benzyl-5-oxomorpholine-3-carboxylic acid (450 mg, 1.91 mmole) and triethylamine (0.28 mL, 2.5 mmole) in THF, ethylchloroformate (0.2 mL) was added dropwise for 20 min at −10° C. The reaction mixture was stirred for additional 30 min and filtered. The filtrate was added for 30 min to a solution of NaBH4 (200 mg, 5.28 mmole) in water (15 mL) at 0° C. The reaction mixture was stirred for 4 h at 10° C. and acidified with 2M HCl. THF was evaporated under reduced pressure and the aqueous residue extracted into DCM, washed with saturated NaHCO3 (20 mL), dried over Na2SO4, concentrated and purified by flash chromatography using eluent 5% MeOH in DCM to get the title compound (170 mg) as oily mass, m/z 222.

reactant | 4-benzyl-5-oxomorpholine-3-carboxylic acid | 1.91 mmole, 450 mg | C(C1=CC=CC=C1)N1C(COCC1=O)C(=O)O | C12H13NO4
reactant | triethylamine | 2.5 mmole, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | NaBH4 | 5.28 mmole, 200 mg | [BH4-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | ethylchloroformate | 0.2 mL | C(C)OC(=O)Cl | C3H5ClO2
solvent | water | 15 mL | O | H2O
product | 4-Benzyl-5-(hydroxymethyl)morpholin-3-one | 170 mg | C(C1=CC=CC=C1)N1C(COCC1CO)=O | C12H15NO3
